US07700641B2
C. Synthesis of 3-(5-fluoro-2-hydroxyphenyl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one
To a solution of 3-(5-fluoro-2-hydroxyphenyl)-1-pentyl-1,3-dihydro-2H-indol-2-one (2.10 g, 6.70 mmol) in THF (20.0 mL) were added paraformaldehyde (1.76 g, 58.8 mmol) and lithium diisopropylamide (7.35 mL, 2.0 M in THF, 14.7 mmol) at 0° C. The reaction mixture was stirred at 0° C. for 2 hrs followed by the addition of ammonium chloride solution (10.0 mL) and ethyl acetate (100 mL). The organic layer was washed with water and brine, dried over Na2SO4 and filtered. The filtrate was concentrated in vacuo to dryness to give the title compound: 1H NMR (300 MHz, CDCl3) δ 9.55-9.10 (br, 1H), 7.53-6.86 (m, 6H), 6.57-6.49 (m, 1H), 4.74-4.30 (br, 1H), 4.18-4.07 (m, 2H), 3.79-3.60 (m, 2H), 1.77-1.61 (m, 2H), 1.41-1.24 (m, 4H), 0.87 (t, 3H); MS (ES+) m/z 326 (M−17), 366 (M+23).

reactant | 3-(5-fluoro-2-hydroxyphenyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | 6.70 mmol, 2.10 g | FC=1C=CC(=C(C1)C1C(N(C2=CC=CC=C12)CCCCC)=O)O | C19H20FNO2
reactant | paraformaldehyde | 58.8 mmol, 1.76 g | C=O | CH2O
reactant | lithium diisopropylamide | 14.7 mmol, 2.0 M, 7.35 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | ammonium chloride | 10.0 mL | [Cl-].[NH4+]
solvent | THF | 20.0 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-(5-fluoro-2-hydroxyphenyl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | FC=1C=CC(=C(C1)C1(C(N(C2=CC=CC=C12)CCCCC)=O)CO)O | C20H22FNO3
